US08017601B2
N-(6-(isoquinolin-5-yl)naphthalen-2-yl)-4-methoxybenzamide
To a microwave vial containing 6-(4-methoxybenzamido)naphthalen-2-yl trifluoromethanesulfonate (0.100 g, 0.2 mmol), in 1,4-Dioxane (3 mL), was added isoquinolin-5-ylboronic acid (0.129 g, 0.8 mmol), Fibrecat catalyst (0.005 g, 5% by wt.), 2 M Potassium Carbonate (0.50 mL, 1 mmol). The vial was capped and placed into CEM Microwave for 10 minutes at 80° C., while supplying 50 Watts of power through power-max. The diluted the mixture [with DCM (2 mL) and water (2 mL)] was extracted with DCM (3×10 mL). The dried organics (over sodium sulfate) was filtered, and concentrated in-vacuo. The crude was purified from reverse-phase HPLC. This gave a tan colored amorphous solid, which was titled product (0.0023 g, 0.006 mmol) MS (ESI pos. ion) m/z: 405 (M+H). Calc'd Exact Mass for C27H20N2O2: 404.

reactant | 6-(4-methoxybenzamido)naphthalen-2-yl trifluoromethanesulfonate | 0.2 mmol, 0.100 g | FC(S(=O)(=O)OC1=CC2=CC=C(C=C2C=C1)NC(C1=CC=C(C=C1)OC)=O)(F)F | C19H14F3NO5S
reactant | isoquinolin-5-ylboronic acid | 0.8 mmol, 0.129 g | C1=NC=CC2=C(C=CC=C12)B(O)O | C9H8BNO2
reactant | Potassium Carbonate | 1 mmol, 2 M, 0.50 mL | C([O-])([O-])=O.[K+].[K+]
reactant | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | 1,4-Dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | water | 2 mL | O | H2O
product | N-(6-(isoquinolin-5-yl)naphthalen-2-yl)-4-methoxybenzamide | 0.006 mmol, 0.0023 g | C1=NC=CC2=C(C=CC=C12)C=1C=C2C=CC(=CC2=CC1)NC(C1=CC=C(C=C1)OC)=O | C27H20N2O2
